US05498609
To a solution of 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) in dimethylformamide (5 ml) are added pyrrolidine (0.09 ml), sodium iodide (0.14 g) and potassium carbonate (0.15 g), and the mixture is stirred at 110° C. for 2 hours. Water is added to the reaction solution, and the mixture is extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-[2-(1-pyrrolidinyl)ethyl]-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (98 mg) as colorless amorphous.

reactant | 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCOS(=O)(=O)C)C1 | C26H25Cl2N3O5S
reactant | pyrrolidine | 0.09 ml | N1CCCC1 | C4H9N
reactant | sodium iodide | 0.14 g | [I-].[Na+]
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 7-chloro-5-[2-(1-pyrrolidinyl)ethyl]-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 98 mg | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN2CCCC2)C1 | C29H30Cl2N4O2
